US07795437B2
Trans-{4-[(Quinoline-4-carbonyl)-amino]-cyclohexyl}-thioacetic acid S— ethyl ester
2.19 g of Trans-{4-[(Quinoline-4-carbonyl)-amino]-cyclohexyl}-acetic acid (7 mmol) was added in 1300 mL of dichloromethane. Then 1.8 mL of oxalyl chloride was added (21 mmol). The suspension was heated to reflux for 3 hours and then the cloudy mixture was concentrated under vacuum. The residue was taken up in 500 mL of dichloromethane as a suspension and (1.28 g, 21 mmol) sodium ethylthiolate freshly prepared from 1.45 mL of ethanothiol and 12.07 mL of butyl lithium (1.6 M in toluene) at 0° C. and by stirring in dimethoxyethane (20 mL) for 1 hour at room temperature. The reaction mixture was stirred overnight. NaHCO3 was added and the organic phase was extracted three times with dichloromethane. The organic phases were dried and concentrated and the residue was chromatographed with heptane/ethyl acetate 1:1 to yield the title compound as a solid (1.97 g, 78.9% yield). MS (m/e): 357.3 (M+H+).

reactant | Trans-{4-[(Quinoline-4-carbonyl)-amino]-cyclohexyl}-acetic acid | 7 mmol, 2.19 g | N1=CC=C(C2=CC=CC=C12)C(=O)N[C@@H]1CC[C@H](CC1)CC(=O)O | C18H20N2O3
reactant | oxalyl chloride | 1.8 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | ethanothiol | 1.45 mL | C(C)S | C2H6S
reactant | butyl lithium | 1.6 M, 12.07 mL | C(CCC)[Li]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 1300 mL | ClCCl | CH2Cl2
solvent | dimethoxyethane | 20 mL | C(OC)COC | C4H10O2
product | Trans-{4-[(Quinoline-4-carbonyl)-amino]-cyclohexyl}-thioacetic acid S— ethyl ester | 1.97 g, 78.9% yield | C(C)SC(C[C@@H]1CC[C@H](CC1)NC(=O)C1=CC=NC2=CC=CC=C12)=O | C20H24N2O2S
